US06747023B1
2-[2-[N-(tert-Butoxycarbonyl)-(2-methoxyethyl)amino]ethyl]-1,4-dibenzyl-piperazine
To 1,4-dibenzyl-2-[2-[(2-methoxyethyl)amino]ethyl]piperazine (540 mg) was added di-tert-butyl dicarbonate (353 mg). The resulting mixture was dissolved in methylene chloride (10 mL), followed by the addition of triethylamine (223 mg). After stirring for 3 days, the reaction was terminated. The solvent was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (methylene chloride:methanol=100:1), whereby the title compound (610 mg) was obtained as a colorless oil.

reactant | 1,4-dibenzyl-2-[2-[(2-methoxyethyl)amino]ethyl]piperazine | 540 mg | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CCNCCOC | C23H33N3O
reactant | di-tert-butyl dicarbonate | 353 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 223 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-[N-(tert-Butoxycarbonyl)-(2-methoxyethyl)amino]ethyl]-1,4-dibenzyl-piperazine | C(C)(C)(C)OC(=O)N(CCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1)CCOC | C28H41N3O3
